US08349886B2
4-bromo-5-methoxy-1H-indazole
To a solution of 3-bromo-4-methoxy-2-methylaniline (19.06 g) in acetonitrile (250 mL) was slowly added acetic anhydride (18.9 mL), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture were added potassium acetate (2.60 g) and pentyl nitrite (22.3 g), and the mixture was heated under reflux for 8 hr. The reaction mixture was concentrated, and to the residue was added 6M hydrochloric acid (200 mL), and the mixture was heated under reflux overnight. The reaction mixture was neutralized with 8M sodium hydroxide, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was dissolved in tetrahydrofuran, and the solution was treated with activated carbon. The activated carbon was filtered off, the filtrate was concentrated, and the obtained residue was crystallized from diisopropyl ether. The crystals were collected by filtration, washed with diisopropyl ether, and dried to give the title compound (10.42 g, yield 52%) as yellow crystals. melting point 178-180° C. MS: 229 (MH+).

reactant | 3-bromo-4-methoxy-2-methylaniline | 19.06 g | BrC=1C(=C(N)C=CC1OC)C | C8H10BrNO
reactant | acetic anhydride | 18.9 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 2.60 g | C(C)(=O)[O-].[K+]
reactant | pentyl nitrite | 22.3 g | N(=O)OCCCCC | C5H11NO2
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 4-bromo-5-methoxy-1H-indazole | 10.42 g, yield 52% | BrC1=C2C=NNC2=CC=C1OC | C8H7BrN2O
